US09376422B2
Step 3: Synthesis of N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzamide
To a stirred solution of methyl 2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzoate (296 mg, 0.89 mmol) in THF (10 ml) and MeOH (1 ml) was added 2M NaOH solution (4.5 ml, 8.9 mmol) and the reaction was stirred at 50° C. for 16 h after which time 4M NaOH solution (1 ml, 4.5 mmol) was added and the reaction was heated for a further 24 h. The reaction was cooled to room temperature and the product was neutralised with 1M HCl and evaporated to dryness followed by azeotrope with toluene to remove residual water. The crude acid was taken through to the next stage without any purification. The crude residue of 2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzoic acid was suspended in DMF (10 ml) and the solution was cooled using an ice bath followed by the addition of DIPEA (433 μl, 2.49 mmol) and HATU (567 mg, 1.49 mmol). The reaction was stirred at 0° C. for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 221 mg, 1.29 mmol) was added and the reaction was warmed room temperature for 16 h. The reaction mixture was then poured onto distilled water (50 ml) and the aqueous phase was extracted with DCM (3×50 ml), washed with brine (50 ml) dried (Na2SO4), filtered and evaporated to give an oil. The product was then purified using preparative HPLC method (and evaporated to dryness followed by trituration with ether and filtration to afford the title compound as an off-white solid (51 mg, 10%). LC-MS 91%, m/z=453.2, 1H NMR (500 MHz, MeOD) δ 7.14 (d, J=1.7 Hz, 1H), 7.09 (d, J=1.7 Hz, 1H), 6.12 (s, 1H), 4.46 (s, 2H), 4.41 (t, J=9.2 Hz, 2H), 4.22 (t, J=9.3 Hz, 2H), 4.14 (dd, J=17.4, 8.5 Hz, 1H), 3.98-3.89 (m, 2H), 3.36 (td, J=11.3, 3.4 Hz, 2H), 3.06 (ddd, J=14.6, 9.8, 4.9 Hz, 1H), 2.97 (s, 3H), 2.64 (s, 3H), 2.39 (s, 3H), 2.26 (s, 3H), 2.24 (s, 3H), 1.73-1.62 (m, 4H).

reactant | methyl 2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzoate | 0.89 mmol, 296 mg | CC1=C(C(=O)OC)C=C(C=C1N(C1CCOCC1)C)C1CN(C1)C | C19H28N2O3
reactant | NaOH | 8.9 mmol, 2M, 4.5 ml | [OH-].[Na+]
reactant | NaOH | 4.5 mmol, 4M, 1 ml | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | DIPEA | 2.49 mmol, 433 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.49 mmol, 567 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 1.29 mmol, 221 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzamide | 51 mg, 10% | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)C1CN(C1)C)N(C1CCOCC1)C)C)=O | C26H36N4O3
